US04011230
β-Nitrostyrene (7.5 grams, 0.050 mole) was added to a cooled (10° C.) stirred slurry of ammonium 1-pyrrolidinecarbodithioate (8.2 grams, 0.050 mole) in methanol (50 ml.). The temperature of the mixture fell to 5° C., then rapidly climbed to 10° C. The cooling bath was removed and the reaction temperature rose slowly to 22° C. Acetic acid (3.0 grams, 0.05 mole) was added, the slurry was cooled to 10° C. and the solid was filtered off, washed with water, and dried in air. The crude product melted at 108° C.-116° C. and weighed 11.4 grams (77% yield). Repeated recrystallizations from cool acetone-methanol, hot acetone-2-propanol, and cool methylene chloride-toluene-hexane solutions gave pure α-(nitromethyl)benzyl 1-pyrrolidinecarbodithioate melting at 116° C.-120° C. (sintering at 113° C.).

reactant | β-Nitrostyrene | 0.050 mole, 7.5 grams | [N+](=O)([O-])C=CC1=CC=CC=C1 | C8H7NO2
reactant | ammonium 1-pyrrolidinecarbodithioate | 0.050 mole, 8.2 grams | N1(CCCC1)C(=S)[S-].[NH4+]
reactant | Acetic acid | 0.05 mole, 3.0 grams | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | α-(nitromethyl)benzyl 1-pyrrolidinecarbodithioate | 77% yield | N1(CCCC1)C(=S)SC(C1=CC=CC=C1)C[N+](=O)[O-] | C13H16N2O2S2
